US06610707B1
1-(1H-Benzo[d]imidazol-2-ylsulfonyl)-N′2-[(2-pyrimidinylcarbonyl)oxy]-2-piperidinecarboximidamide
The title compound was prepared by a similar method to Preparation 20 from (Z)-1-(1H-benzo[d]imidazol-2-ylsulfonyl)-N′2-hydroxy-2-piperidinecarboximidamide [see Preparation 19] and pyrimidine-2-carboxylic acid (see Chem. Ind. (London), 1954, 786) to afford 1-(1H-benzo[d]imidazol-2-ylsulfonyl)-N′2-[(2-pyrimidinylcarbonyl)oxy]-2-piperidinecarboximidamide as a gum. The title compound was used directly in Example 65.

reactant | (Z)-1-(1H-benzo[d]imidazol-2-ylsulfonyl)-N′2-hydroxy-2-piperidinecarboximidamide | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)/C(/N)=N/O | C13H17N5O3S
reactant | pyrimidine-2-carboxylic acid | N1=C(N=CC=C1)C(=O)O | C5H4N2O2
product | 1-(1H-benzo[d]imidazol-2-ylsulfonyl)-N′2-[(2-pyrimidinylcarbonyl)oxy]-2-piperidinecarboximidamide | N1C(=NC2=C1C=CC=C2)S(=O)(=O)N2C(CCCC2)C(N)=NOC(=O)C2=NC=CC=N2 | C18H19N7O4S
